US04587317
Allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-allylimide
A mixture of 30 g of allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride and 9.41 g of allylamine is heated at reflux temperature for 2 hours, water is distilled off and the product is rectified at 119°-127° C. and 2.66 Pa. This gives 30.24 g (85.5% of theory) of a pale yellow oil having the following characteristic data: n20 =1.5202, η25 =0.135 Pa.s.

reactant | allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 30 g | C(C=C)CC12C3C(C(C=C1)C2)C(=O)OC3=O | C13H14O3
reactant | allylamine | 9.41 g | C(C=C)N | C3H7N
product | Allylmethylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-allylimide | C(C=C)N=C(O)C1C2(C=CC(C1C(=O)O)C2)CCC=C | C16H21NO3
